US07759376B2
Step 3. Preparation of methyl N-[(4′-amino-3-methoxybiphenyl-4-yl)carbonyl]-L-valinate
Iron powder (0.35 g, 6.2 mmol) was added to a solution of methyl N-[(3-methoxy-4′-nitrobiphenyl-4-yl)carbonyl]-L-valinate (0.30 g, 0.62 mmol) in ethanol (10 mL). Concentrated HCl (0.31 mL, 0.62 mmol) was added, and the mixture was heated at reflux for 1 h. Upon cooling to rt, the mixture was filtered through a pad of Celite®, and the filtrate was concentrated in vacuo. The material was purified by column chromatography (33% EtOAc in hexanes), yielding 0.296 g (quantitative) of the title compound. LC/MS m/z 357.2 (MI), retention time 2.34 min.

reactant | methyl N-[(3-methoxy-4′-nitrobiphenyl-4-yl)carbonyl]-L-valinate | 0.62 mmol, 0.30 g | COC=1C=C(C=CC1C(=O)N[C@@H](C(C)C)C(=O)OC)C1=CC=C(C=C1)[N+](=O)[O-] | C20H22N2O6
reactant | HCl | 0.62 mmol, 0.31 mL | Cl | ClH
solvent | ethanol | 10 mL | C(C)O | C2H6O
catalyst | Iron | 6.2 mmol, 0.35 g | [Fe] | Fe
product | methyl N-[(4′-amino-3-methoxybiphenyl-4-yl)carbonyl]-L-valinate | NC1=CC=C(C=C1)C1=CC(=C(C=C1)C(=O)N[C@@H](C(C)C)C(=O)OC)OC | C20H24N2O4
